US06465467B1
Step 1: 2-Chloro-3-(2-phenoxyethylamino)pyrazine.
A mixture of 2-phenoxyethylamine (2.65 g, 19.3 mmol), 2,3-dichloropyrazine (2.88 g, 19.3 mmol) and K2CO3 (2.67 g, 19.3 mmol) in acetonitrile (8 mL) was stirred in a sealed tube for 12 h at room temperature, and for a further 9.5 h at 80° C. The reaction mixture was diluted with ether, filtered, and concentrated. The residue was purified by chromatography on silica gel using n-hexane/EtOAc (7:3) as eluent to give 2.36 g (49%) of the title compound as a yellowish oil that solidified on standing: mp 51-53° C.; HRMS m/z calcd for C12H12ClN30 (M)+ 249.0669, found 249.0659. Anal. (Cl2H12ClN30) C, H, N.

reactant | 2-phenoxyethylamine | 19.3 mmol, 2.65 g | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | 2,3-dichloropyrazine | 19.3 mmol, 2.88 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | K2CO3 | 19.3 mmol, 2.67 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | 2-Chloro-3-(2-phenoxyethylamino)pyrazine | 2.36 g, 49% | ClC1=NC=CN=C1NCCOC1=CC=CC=C1 | C12H12ClN3O
